US04592866
8-Chloro-2-(2-chloroethyl)-2,3-dihydro-4-methyl-1,4-benzoxazepine-5(4H)-thione
To a solution of 43 g (0.16 mole) of 8-chloro-2-(2-chloroethyl)-2,3-dihydro-4-methyl-1,4-benzoxazepin-5(4H)-one in 400 ml of dry toluene was added a mixture of 23 g (0.12 mole) of phosphorus pentasulfide and 23 g of potassium sulfide which had been ground together. The reaction mixture was stirred and heated at reflux for 24 hr. The mixture was filtered hot and the filtrate concentrated under reduced pressure to give 25.5 g (55%) of orange oil which solidified on standing at room temperature. The solid was recrystallized from ethanol, m.p. 105°-106° C.

reactant | 8-chloro-2-(2-chloroethyl)-2,3-dihydro-4-methyl-1,4-benzoxazepin-5(4H)-one | 0.16 mole, 43 g | ClC1=CC2=C(C(N(CC(O2)CCCl)C)=O)C=C1 | C12H13Cl2NO2
reactant | phosphorus pentasulfide | 0.12 mole, 23 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | potassium sulfide | 23 g | [S-2].[K+].[K+]
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 8-Chloro-2-(2-chloroethyl)-2,3-dihydro-4-methyl-1,4-benzoxazepine-5(4H)-thione | 25.5 g, 55% | ClC1=CC2=C(C(N(CC(O2)CCCl)C)=S)C=C1 | C12H13Cl2NOS
